US07517902B2
A suspension of 3 g of tert-butyl[4-(3-amino-7-fluoro-1H-indazol-6-yl)phenyl]carbamate in 60 mL of dichloromethane is admixed at ambient temperature with 6 mL of trifluoroacetic acid. The reaction mixture is stirred at ambient temperature for 18 h and concentrated to dryness under reduced pressure. The solid obtained is taken up in ethyl acetate and the solution is treated with 4N aqueous sodium hydroxide solution and then decanted. The organic phase is subsequently washed with distilled water, then with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure. The yellow solid obtained (2.08 g) is chromatographed on a silica column (eluent: ethyl acetate). Evaporation to dryness under reduced pressure of the fractions containing the expected product gives 1.88 g of 6-(4-aminophenyl)-7-fluoro-1H-indazol-3-ylamine in the form of a yellow solid, whose characteristics are as follows:

reactant | tert-butyl[4-(3-amino-7-fluoro-1H-indazol-6-yl)phenyl]carbamate | 3 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1F)N)=O | C18H19FN4O2
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-aminophenyl)-7-fluoro-1H-indazol-3-ylamine | 1.88 g | NC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1F)N | C13H11FN4
